US04802906
A solution of 1.28 g of 2-(aminosulfonyl)benzenesulfonyl chloride in 12 ml of dry THF was cooled to -65° C. and a solution of 0.80 ml of cyclopropylamine in 12 ml of dry THF added dropwise. The resulting mixture was allowed to warm to room temperature, filtered, and the filtrate concentrated in vacuo. The solid residue was partitioned between water and ethyl acetate, the organic phase was separated, washed with water, dried (MgSO4), concentrated in vacuo, and the residue triturated with 1-chlorobutane to provide 1.15 g of N-cyclopropyl-1,2-benzenedisulfonamide as a white solid, m.p. 202°-203° C.

reactant | 2-(aminosulfonyl)benzenesulfonyl chloride | 1.28 g | NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)Cl | C6H6ClNO4S2
reactant | cyclopropylamine | 0.80 ml | C1(CC1)N | C3H7N
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | N-cyclopropyl-1,2-benzenedisulfonamide | 1.15 g | C1(CC1)NS(=O)(=O)C=1C(=CC=CC1)S(=O)(=O)N | C9H12N2O4S2
